Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Wrist pain, swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ yo man with history of HIV on Triumeq, IV drug use 
and multiple episodes of cellulitis presenting with two day 
history of right wrist pain and swelling. Two days ago he 
injected crystal meth into right wrist. The following day it 
started to hurt and swell. Today he presented to primary care 
doctor who referred him to ___. Said that he was injecting 
because he had bad event in his life recently. He also injected 
in left wrist and antecubital fossa but does not have symptoms 
there. He reports that he did not have any trauma to the wrist. 
Reports having ___ episodes of cellulitis in past. denies 
systemic infectious symptoms, chest 
pain/pressure/sob/n/v/diarrhea/constipation. Took his Triumeq 
this am. 
  
In the ED, initial vitals were: 98.3 70 ___ 100%RA 
 
- Exam notable for: right wrist erythematous, no spread past 
marking from clinic this morning. No abscess appreciated. Track 
marks and cut marks up both arms. 
- Labs notable for:  CBC wnl, Chem 10 wnl, lactate 1.8
- Imaging was notable for:  R wrist Xray: No acute fracture or 
dislocation. Diffuse wrist soft tissue swelling.
- Patient was given:  Acetaminophen 650 mg, Vancomycin 1000 mg, 
Unasyn 3g
- Patient was seen by social work who identified that the 
patient was at zero in terms of readiness for treatment.

Upon arrival to the floor, patient reports ongoing pain in his 
right wrist. Denies fever, nausea, vomiting, involvement of any 
other joints. He reports a history of skin abscesses as well as 
bacteremia due to IVDU, but denies a history of endocarditis or 
joint infection. 
 
Past Medical History:
-HIV
-IV methamphetamine use with multiple episodes of cellulitis
-Insomnia
-Depression
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ON ADMISSION
============
VITAL SIGNS: 98.6 93/59 64 18 99% Ra 
GENERAL: Appears mildly uncomfortable due to wrist pain; 
generally non-toxic appearing
HEENT: NCAT, moist mucous membranes
NECK: Supple, no LAD
CARDIAC: RRR, nl S1/S2, no murmurs
LUNGS: Clear to auscultation b/l
ABDOMEN: Soft, non-tender, non-distended, no masses
EXTREMITIES: RUE: multiple injection sites scattered around 
forearm. On volar wrist, small area of erythema with surrounding 
edema. Tender to palpation throughout volar and dorsal forearm. 
No crepitus. ROM in wrist flexion/extension limited by pain. 
NEUROLOGIC: Moving all extremities equally
SKIN: On b/l forearms, multiple injection sites with prominent 
scars from cuts on L arm

ON DISCHARGE
============
VITAL SIGNS: 98.1 PO 115 / 72 L Lying 70 14 95 Ra  
GENERAL: Comfortable, NAD, anxious appearing
HEENT: NCAT, moist mucous membranes
NECK: Supple, no LAD
CARDIAC: RRR, nl S1/S2, no murmurs
LUNGS: Clear to auscultation b/l
ABDOMEN: Soft, non-tender, non-distended, no masses
EXTREMITIES: RUE: multiple injection sites scattered around 
forearm. On volar wrist, trace erythema. Minimally tender to 
palpation throughout volar and dorsal forearm. No crepitus. ROM 
~60 degrees with minimal pain in wrist flexion/extension. 
NEUROLOGIC: Moving all extremities equally
SKIN: On b/l forearms, multiple injection sites with prominent 
scars from cuts on L arm
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:10PM BLOOD WBC-6.7 RBC-4.78 Hgb-14.9 Hct-43.1 MCV-90 
MCH-31.2 MCHC-34.6 RDW-13.4 RDWSD-43.7 Plt ___
___ 04:10PM BLOOD Neuts-59.3 ___ Monos-12.7 Eos-1.8 
Baso-0.3 Im ___ AbsNeut-3.95 AbsLymp-1.72 AbsMono-0.85* 
AbsEos-0.12 AbsBaso-0.02
___ 04:10PM BLOOD Glucose-113* UreaN-14 Creat-1.1 Na-138 
K-5.0 Cl-102 HCO3-24 AnGap-17
___ 04:09PM BLOOD Lactate-1.8

PERTINENT LABS
==============
___ 04:10PM BLOOD CK(CPK)-392*
___ 04:10PM BLOOD CRP-14.2*

DISCHARGE LABS
==============
___ 07:25AM BLOOD WBC-5.0 RBC-4.76 Hgb-15.2 Hct-43.3 MCV-91 
MCH-31.9 MCHC-35.1 RDW-13.2 RDWSD-43.8 Plt ___
___ 07:25AM BLOOD Glucose-114* UreaN-14 Creat-1.0 Na-139 
K-3.6 Cl-104 HCO3-26 AnGap-13
___ 07:25AM BLOOD Calcium-8.4 Phos-3.5 Mg-2.2

IMAGING
=======
WRIST ___: No acute fracture or dislocation.  Diffuse wrist 
soft tissue swelling. 

MICROBIOLOGY
============
___ 4:10 pm BLOOD CULTURE
   Blood Culture, Routine (Pending at time of discharge)
  

 
Brief Hospital Course:
This is a ___ yo man with history of HIV on Triumeq, IV drug use 
and multiple episodes of cellulitis presenting with two day 
history of right wrist pain and swelling after injecting crystal 
meth into his wrist. He was admitted for management of 
cellulitis. He was afebrile with no leukocytosis or evidence of 
sepsis throughout his admission. Blood cultures were drawn and 
did not grow anything by the time of discharge. He was initially 
started on Vancomycin and Unasyn. He was evaluated by the 
surgical team who felt that this was simple cellulitis and they 
were not concerned about necrotizing fasciitis or septic 
arthritis. He was monitored for 24 hours and his hand pain 
improved significantly. We transitioned him to oral Keflex and 
Bactrim to complete a 10 day course. He should have follow up 
with his PCP on discharge to be re-evaluated.

He also developed some abdominal cramping, nausea, and vomiting 
prior to discharge. His abdominal exam was benign. Suspect his 
symptoms are most likely due to combination of nausea from 
antibiotics as well as constipation. He was given anti-emetics 
with good effect, and was tolerating PO by the time of 
discharge. 

Transitional Issues:
[] Follow up rash within 48-72 hours to monitor clinical 
improvement.
[] Complete 10 day course of Keflex and Bactrim (end date ___
[] Provide patient with resources for ongoing substance abuse
[] F/u pending blood cultures at ___

# CODE: full (presumed) 
# CONTACT: Husband, ___ (___) 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO QID:PRN upset stomach  
2.  Cephalexin 500 mg PO Q6H Duration: 8 Days 
end date ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six hours Disp 
#*32 Capsule Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  Psyllium Powder 1 PKT PO DAILY 
RX *psyllium husk (aspartame) [Metamucil MultiHealth Fiber] 3.4 
gram/5.8 gram 1 powder(s) by mouth once a day Disp #*660 Gram 
Gram Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides 8.6 mg 1 tab by mouth twice a day Disp #*20 
Tablet Refills:*0 
6.  Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 8 Days 
end date ___ 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth Twice daily Disp #*32 Tablet Refills:*0 
7.  Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Cellulitis of R wrist
Secondary: IV methamphetamine abuse, HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were having right hand 
pain. You have a skin infection called "cellulitis" that we 
treated with IV antibiotics. Your hand improved slightly so we 
felt that you could be discharged home on antibiotic medication 
by mouth. Our colleagues from the surgery team evaluated your 
hand and did not feel that you had a deeper infection of the 
joint or underlying tissues. We would recommend that you see 
your PCP next week and that you avoid anything that could injure 
your arm and hand to prevent future infections.  

You were also having some abdominal cramping. We believe this is 
due to constipation. The antibiotics can cause some GI upset as 
well. We will prescribe you some medication to help you move 
your bowels, and for stomach upset. 

We wish you all the best.

Sincerely,

Your care team at ___
 
Followup Instructions:
___